US03937704
6-Chloro-3-(methylsulfinyl)-4(1H)-cinnolinone
500 ml of 3N HCl was chilled to 0° in an ice-salt bath, and 10 g of 2'-amino-5'-chloro-2-(methylsulfinyl)acetophenone was added. The mixture was stirred until a clear solution was obtained, and a solution of 3.45 g of NaNO2 in 20 ml of H2O was added with stirring at ca. 0°-3°. The solution became first orange colored, and then a yellow precipitate formed. The ice bath was removed, and the mixture was stirred until room temperature was attained. The precipitate was filtered off, washed with H2O, and recrystallized from dimethylformamide, mp. 267°-72°; yield 5 g (44%).

reactant | HCl | 3N, 500 ml | Cl | ClH
reactant | 2'-amino-5'-chloro-2-(methylsulfinyl)acetophenone | 10 g | NC1=C(C=C(C=C1)Cl)C(CS(=O)C)=O | C9H10ClNO2S
reactant | NaNO2 | 3.45 g | N(=O)[O-].[Na+]
solvent | H2O | 20 ml | O | H2O
product | 6-Chloro-3-(methylsulfinyl)-4(1H)-cinnolinone | ClC=1C=C2C(C(=NNC2=CC1)S(=O)C)=O | C9H7ClN2O2S
